US09120728B2
1-(2-bromoethoxy)-3-chloro-5-methylsulfonyl-benzene
Preparation according to Preparation 2: 3-chloro-5-methylsulfonyl-phenol (2.8 g, 13.5 mmol), 1.2-dibromoethane (12 ml, 135 mmol), potassium carbonate (3.7 g, 27.1 mmol), acetonitrile (15 ml) Yield: 2.1 g, 50%). MS m/z (relative intensity, 70 eV 314 (M+, 35), 312 (M+, 25), 206 (7), 126 (9), 109 (98), 107 (bp).

reactant | 3-chloro-5-methylsulfonyl-phenol | 13.5 mmol, 2.8 g | ClC=1C=C(C=C(C1)S(=O)(=O)C)O | C7H7ClO3S
reactant | 1.2-dibromoethane | 135 mmol, 12 ml | BrCCBr | C2H4Br2
reactant | potassium carbonate | 27.1 mmol, 3.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml, Yield: 2.1 g | C(C)#N | C2H3N
product | 1-(2-bromoethoxy)-3-chloro-5-methylsulfonyl-benzene | BrCCOC1=CC(=CC(=C1)S(=O)(=O)C)Cl | C9H10BrClO3S
